US06303620B1
N-tert-butyloxycarbonyl-4-benzylpiperidine-4-carboxylic acid (3.0 g; 9.0 mmol) was dissolved in methylene chloride (25 ml) and EDAC (1.8 g; 9.0 mmol) and HOAt (1.3 g; 9.0 mmol) was added. The mixture was stirred for 15 min, then methyl amine (33% in ethanol; 2.3 ml; 18 mmol) and DIEA (1.6 ml; 9.0 mmol) was added and the mixture was stirred overnight. Methylene chloride (100 ml) was added and the mixture was washed with a saturated aqueous solution of sodium hydrogen carbonate (50 ml) and a aqueous solution of sodium hydrogensulfate (10%, 50 ml), dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica (90 g) using a mixture of aqueous ammonia/ethanol/methylene chloride (1:7:92) as eluent to afford 2.8 g of 4-benzyl-4-methylcarbamoylpiperidine-1-carboxylic acid tert-butyl ester.

reactant | N-tert-butyloxycarbonyl-4-benzylpiperidine-4-carboxylic acid | 9.0 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CC1=CC=CC=C1 | C18H25NO4
reactant | EDAC | 9.0 mmol, 1.8 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 9.0 mmol, 1.3 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | methyl amine | 18 mmol, 2.3 ml | CN | CH5N
reactant | DIEA | 9.0 mmol, 1.6 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-benzyl-4-methylcarbamoylpiperidine-1-carboxylic acid tert-butyl ester | 2.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(NC)=O)CC1=CC=CC=C1 | C19H28N2O3
